US05534515
4c. 1-Benzyl-7-benzyloxy-2-methylpyrrolo[2,3 -d]pyridazine
650 mg (6 mmol) of benzyl alcohol, 10 ml of N-methylpyrrolidone, 1.1 g (10 mmol) of potassium tert-butoxide, 50 mg (0.2 retool) of [18]crown-6 and 500 mg (1.94 retool) of 1-benzyl-7-chloro-2-methylpyrrolo[2,3-d]pyridazine are reacted at room temperature for 2 h. Purification: chromatography on silica gel (eluent: toluene/dioxane=2:1) and crystallization from diisopropyl ether. Yield: 68%, m.p.: 124° C.

reactant | benzyl alcohol | 6 mmol, 650 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | potassium tert-butoxide | 10 mmol, 1.1 g | CC(C)([O-])C.[K+]
reactant | 1-benzyl-7-chloro-2-methylpyrrolo[2,3-d]pyridazine | 500 mg | C(C1=CC=CC=C1)N1C(=CC=2C1=C(N=NC2)Cl)C | C14H12ClN3
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 1-Benzyl-7-benzyloxy-2-methylpyrrolo[2,3 -d]pyridazine | Yield: 68% | C(C1=CC=CC=C1)N1C(=CC=2C1=C(N=NC2)OCC2=CC=CC=C2)C | C21H19N3O
